US09163021B2
2-(4-chlorophenyl)-N-(5-{[7-fluoro-1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide
To a mixture of (5-aminopyridin-3-yl)[7-fluoro-1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Enantiomer 2, Preparation 26, 50 mg, 0.159 mmol) and 4-chlorophenylacetic acid (27.2 mg, 0.159 mmol) in pyridine (1 mL) was added HATU (121 mg, 0.31 mmol) and the reaction was stirred at room temperature for 16 hours. The reaction was diluted with EtOAc, washed with saturated aqueous NaHCO3 solution, brine, dried over sodium sulphate and concentrated in vacuo. The residue was purified using preparative TLC eluting with 7% MeOH in DCM to afford the title compound (28 mg).

reactant | (5-aminopyridin-3-yl)[7-fluoro-1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | 0.159 mmol, 50 mg | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)C | C16H15FN4O2
reactant | 4-chlorophenylacetic acid | 0.159 mmol, 27.2 mg | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | HATU | 0.31 mmol, 121 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-chlorophenyl)-N-(5-{[7-fluoro-1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide | 28 mg | ClC1=CC=C(C=C1)CC(=O)NC=1C=NC=C(C1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)C | C24H20ClFN4O3
